US07547710B2
To a solution of tert-butyl [6-({2-[(tert-butoxycarbonyl)amino]ethyl}amino)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate (0.50 g, 0.89 mmol) in ethyl acetate (50 ml) was added saturated aqueous sodium hydrogen carbonate (50 ml), and the mixture was vigorously stirred at room temperature. Ethyl chloroglyoxylate (0.30 g, 2.2 mmol) was added dropwise to the obtained mixture and the mixture was vigorously stirred for 30 min. The organic layer was separated, washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give ethyl {{2-[(tert-butoxycarbonyl)amino]ethyl}[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]amino}(oxo)acetate (0.53 g, yield 90%) as a white powder.

reactant | tert-butyl [6-({2-[(tert-butoxycarbonyl)amino]ethyl}amino)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate | 0.89 mmol, 0.50 g | C(C)(C)(C)OC(=O)NCCNC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C33H46N4O4
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
reactant | Ethyl chloroglyoxylate | 2.2 mmol, 0.30 g | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | ethyl {{2-[(tert-butoxycarbonyl)amino]ethyl}[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]amino}(oxo)acetate | 0.53 g, yield 90% | C(C)(C)(C)OC(=O)NCCN(C=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(=O)OC(C)(C)C)C1=CC=C(C=C1)C)C(C(=O)OCC)=O | C37H50N4O7
